US06353006B1
N-Isobutylleucine ethyl ester was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to Method C11a to afford (4S)-2-(2-methyl-4-nitrophenylimino)-3,4-diisobutyl-1,3-thiazolidin-5-one.

reactant | N-Isobutylleucine ethyl ester | C(C)OC([C@@H](NCC(C)C)CC(C)C)=O | C12H25NO2
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | (4S)-2-(2-methyl-4-nitrophenylimino)-3,4-diisobutyl-1,3-thiazolidin-5-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC([C@@H](N1CC(C)C)CC(C)C)=O | C18H25N3O3S
